2167-11-02 07:31:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
   Transferred to MICU from Floor for resp distress
   CVVH started, pulling 50-100cc/hour of fluid off
   Started on low dose levophed for BP support during fluid removal
   Restarted aspirin (had been held since GIB in [**9-14**])
   Guaiac negative overnight.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.05 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Chest pain, Edema, c/o armput discomfort
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: intermittent confusion
   Flowsheet Data as of  [**2167-11-2**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 61 (61 - 96) bpm
   BP: 108/46(59) {79/34(28) - 124/98(104)} mmHg
   RR: 24 (11 - 24) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 103.4 kg (admission): 98.9 kg
    CVP: 24 (24 - 24)mmHg
   Total In:
                                                                  2,115 mL
                                                                  2,155 mL
   PO:
                                                                    500 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,615 mL
                                                                  1,855 mL
   Blood products:
   Total out:
                                                                  2,252 mL
                                                                  2,255 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -137 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: 7.47/38/91.[**Numeric Identifier 96**]/26/3
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: bases)
   Abdominal: Non-tender
   Extremities: Right: surgically absent, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   131 K/uL
   9.1 g/dL
   158 mg/dL
   1.9 mg/dL
   26 mEq/L
   5.0 mEq/L
   12 mg/dL
   98 mEq/L
   134 mEq/L
   29.2 %
   12.1 K/uL
        [image002.jpg]
                            [**2167-10-28**]  05:36 AM
                            [**2167-10-28**]  11:42 AM
                            [**2167-10-28**]  05:36 PM
                            [**2167-10-28**]  11:45 PM
                            [**2167-10-29**]  05:47 AM
                            [**2167-11-1**]  03:35 PM
                            [**2167-11-1**]  08:09 PM
                            [**2167-11-1**]  10:46 PM
                            [**2167-11-1**]  11:59 PM
                            [**2167-11-2**]  04:31 AM
   WBC
   8.2
   7.6
   12.1
   Hct
   25.8
   24.9
   29.2
   Plt
   148
   145
   131
   Cr
   2.0
   2.0
   1.8
   1.6
   2.2
   1.9
   TropT
   0.39
   0.37
   TCO2
   28
   Glucose
   110
   141
   157
   138
   154
   90
   137
   158
   Other labs: PT / PTT / INR:17.4/36.9/1.6, CK / CKMB /
   Troponin-T:71/7/0.37, Differential-Neuts:90.2 %, Band:0.0 %, Lymph:5.7
   %, Mono:3.0 %, Eos:0.9 %, Lactic Acid:2.6 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: Lactate 1.4 ->2.6
   Imaging: CXR with interstitial edema
   Microbiology: no further culture data
   Assessment and Plan
   Patient is an 80 y.o. man with pmh significant for systolic and
   diastolic CHF, ESRD, p/w dyspnea, hypoxia, and hypotension.
   #)Acute on Chronic Systolic and Diastolic Congestive Heart Failure:
   Continues to have interstitial edema.
   -                Continue CVVH in coordination with renal with focus on
   pulling volume off, aim now -150cc/hour
   -                Support BP with levophed if becomes hypotensive on
   CVVH
   -                Possible component of HAP until cultures negative
   -                Cover with vanc/zosyn/levo
   #) Coronary Artery Disease
   -                Restarted asa, guaiac stools
   -                Defer restarting clopidogrel for now as patient has no
   recent stent
   -                Enzymes show trop leak, flat CKs suggesting no new
   event
    #)Hypotension: Does not appear to be new cardiac changes on recent
   echo, and does not appear to be infected and does not meet SIRS
   criteria. Only significant change has been his PASP trending upward
   over the last 10 months.
   -                continue digoxin
   -                f/u blood cultures
   -                levophed support as needed
   #) Pulmonary Hypertension: Likely worsening CHF, with RV dilation
   initially seen in [**Month (only) **]. Could consider clot given that he is no
   longer on systemic anticoagulation. He is not on AC (primary indication
   Afib) because this was deemed high risk because of UGIB. Will discuss
   with team and review old echo data further. Can consider RHC vs
   repeating echo when more diuresed.
   -                Check LENIS
   #) EColi UTI (Complicated): Positive at [**Hospital1 723**] from [**10-20**], sensitive to
   amp/clav though initially reported as ESBL.
   -                Change to Zosyn as part of coverage for HAP
   (sensitivity shown to e.coli)
   -                Will d/w ID if [**Last Name (un) 430**] is better alternative for recent
   urine infection
   #)h/o GI bleeding: Angioectasias seen in [**5-14**], recent GIB in [**9-14**]. Not
   currently bleeding, hematocrit is stable. holding anticoagulation.
   -                Guaiac stools
   #)Afib: Holding metorpolol , continue amiodarone and digoxin. Holding
   AC for recent GIB as above.
   #) ESRD: Continue CVVH and try to transition back to HD in near future.
   Given his BP limitations, we will have to have ongoing discussions with
   patient and family regarding ability to maximize his hemodynamics and
   ultrafiltration.
   #) Thrombocytopenia Labile platelets, HIT negative x2 in [**8-14**], though
   we [**Male First Name (un) **]
t have a great explanation for thrombocytopenia. Given negative
   studies for PF4, negative serotonin release assay, and review of recent
   heme consultation in [**9-14**] for same issue, will continue using heparin
   flushes/HD for now and reassess or seek further clarification if plts
   drop or develops thrombotic complications. Reconsult heme if need for
   heparin; hold heparin products
   #) Dislocated Shoulder: Per initial patient interview this is old,
   though now patient c/o more of his right arm and loss of its function.
   -                Ortho called; splint and OT/PT for arm/elbow
   #) Right upper Extremity Edema
 No recent IVs in that site raises
   possibility of deep venous thrombosis of the RUE.
   -                Check UENIs
   #) Prophylaxis: PPI, bowel regimen, pneumoboot
   #) FEN: low salt diet diet as tolerated
   #) Access: Left IJ, left midline, right tunneled HD catheter..
   #) Code Status: DNR/DNI
   #) Dispo: likely pain and palliative care consult for symptom control,
   goals of care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   PICC Line - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2167-11-03 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Continued to pull off 100-150cc/hour of fluid with levophed for BP
   support/
 ULTRASOUND - At [**2167-11-2**] 10:30 AM
   Found right IJ clot, heparin started
   LENIS showed no LE clot.
 CHEST PAIN - At [**2167-11-2**] 12:40 PM
   gave SLN x2, 1mg IV morphine, aquired EKG and sent cardiac enzymes.
   Also placed on 100% face tent on top of 4L NC (o2sat 100%). Biomarkers
   with rising CK without elevated MB fraction, Troponin is decreased from
   prior
 Augmentin switched to Vanc/[**Last Name (un) **]/Cipro for presumed HAP
 Ortho re: RUE AC subluxation
 given splint
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2167-11-2**] 11:00 AM
   Meropenem - [**2167-11-3**] 12:00 AM
   Ciprofloxacin - [**2167-11-3**] 02:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Chest pain, Edema, currently CP free
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2167-11-3**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 89 (54 - 89) bpm
   BP: 99/76(82) {73/31(48) - 126/87(96)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 103.4 kg (admission): 98.9 kg
    CVP: 21 (5 - 33)mmHg
   Total In:
                                                                  7,397 mL
                                                                  1,292 mL
   PO:
                                                                    750 mL
   TF:
   IVF:
                                                                  6,647 mL
                                                                  1,292 mL
   Blood products:
   Total out:
                                                                  9,333 mL
                                                                  3,312 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,936 mL
                                                                 -2,020 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, dry mouth
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : b/l anterior fields)
   Extremities: Right: Absent, Left: 2+, Right UE edematous >Left
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x1,
   Home, [**2158**], Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   122 K/uL
   8.9 g/dL
   113 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.4 mEq/L
   10 mg/dL
   98 mEq/L
   134 mEq/L
   28.7 %
   12.3 K/uL
        [image002.jpg]
                            [**2167-11-1**]  10:46 PM
                            [**2167-11-1**]  11:59 PM
                            [**2167-11-2**]  04:31 AM
                            [**2167-11-2**]  09:50 AM
                            [**2167-11-2**]  12:51 PM
                            [**2167-11-2**]  03:35 PM
                            [**2167-11-2**]  11:02 PM
                            [**2167-11-2**]  11:17 PM
                            [**2167-11-3**]  04:28 AM
                            [**2167-11-3**]  04:48 AM
   WBC
   12.1
   12.3
   Hct
   29.2
   28.7
   Plt
   131
   122
   Cr
   1.9
   1.8
   1.7
   1.6
   TropT
   0.37
   0.33
   0.28
   TCO2
   28
   Glucose
   137
   158
   110
   135
   196
   178
   113
   113
   Other labs: PT / PTT / INR:22.5/>150.0/2.2, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:41/85, Alk Phos / T Bili:124/1.7,
   Differential-Neuts:90.2 %, Band:0.0 %, Lymph:5.7 %, Mono:3.0 %, Eos:0.9
   %, Lactic Acid:2.6 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L, Ca++:10.1
   mg/dL, Mg++:2.0 mg/dL, PO4:1.6 mg/dL
   Fluid analysis / Other labs: Vanc Trouch 12.4
   Microbiology: [**2167-10-31**]  BLOOD CULTURE  Pending
   [**2167-10-31**]  BLOOD CULTURE  Pending
   [**2167-10-27**]  MRSA SCREEN  Final
   [**2167-10-25**]  BLOOD CULTURE  Final
   [**2167-10-25**]  BLOOD CULTURE  Final
   Assessment and Plan
   80 y/oM with vascular disease, CAD, ESRD, a/w CHF exacerbation and
   hypotension
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   - Continuing to pull off fluid with levophed support
   - Consider dobutamine as long as no ischemia is suspected, will keep on
   digoxin.
 LEUKOCYTOSIS
   - Rising WBC count with resp distress concerning for new pneumonia.
   - Covering for HAP with vanc/[**Last Name (un) 430**]/cipro
   - Still trying to culture from resp tract, not producing significant
   sputum
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - CP without e/o ischemia on ECG (though multiple blocks seen, old)
   - biomarkers not suggestive of new event
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   LENIs negative to suggest DVT
   Has risk factors for PE, but also this is only documented on echo so
   could be CHF
   Repeat echo after diuresis
 URINARY TRACT INFECTION (UTI)
   on [**Last Name (un) 430**] for the ESBL
 ATRIAL FIBRILLATION (AFIB)
   Digoxin, amio. Will halve dig dose given bradycardia yesterday and
   level of 1.5.
 THROMBOCYTOPENIA, CHRONIC
   Following plts; HIT neg x2 with neg serotonin release assay.
 HYPOTENSION WITHOUT ORGAN DYSFUNCTION
   levophed support, probably  cardiogenic and intravascular volume as
   sources
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   on heparin, need to adjust scale
 WHEEZING
   nebs prn, fluid removal
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Continue CVVH
   #) Dislocated Shoulder:
   -                Ortho called; splint and OT/PT for arm/elbow
   #) H/o GI bleeding
   - continue to guaiac stools
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   PICC Line - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2167-11-04 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1. remained on levophed 0.08
   2. continued on CVVH, took off 8L
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2167-11-3**] 10:00 AM
   Meropenem - [**2167-11-4**] 12:07 AM
   Ciprofloxacin - [**2167-11-4**] 02:09 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Heparin Sodium - 700 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-4**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 68 (68 - 89) bpm
   BP: 108/53(68) {56/25(41) - 191/128(144)} mmHg
   RR: 13 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 103.4 kg (admission): 98.9 kg
    CVP: 19 (6 - 24)mmHg
   Total In:
                                                                  8,778 mL
                                                                  2,367 mL
   PO:
                                                                  1,080 mL
   TF:
   IVF:
                                                                  7,698 mL
                                                                  2,367 mL
   Blood products:
   Total out:
                                                                 11,241 mL
                                                                  2,831 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,463 mL
                                                                   -464 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/44/32/22/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   140 K/uL
   8.6 g/dL
   145 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.4 mEq/L
   7 mg/dL
   99 mEq/L
   133 mEq/L
   27.6 %
   11.9 K/uL
        [image002.jpg]
                            [**2167-11-2**]  03:35 PM
                            [**2167-11-2**]  11:02 PM
                            [**2167-11-2**]  11:17 PM
                            [**2167-11-3**]  04:28 AM
                            [**2167-11-3**]  04:48 AM
                            [**2167-11-3**]  11:07 AM
                            [**2167-11-3**]  04:32 PM
                            [**2167-11-3**]  10:00 PM
                            [**2167-11-3**]  10:05 PM
                            [**2167-11-4**]  03:44 AM
   WBC
   12.3
   11.4
   11.9
   Hct
   28.7
   30.5
   27.6
   Plt
   122
   129
   140
   Cr
   1.8
   1.7
   1.6
   1.4
   1.4
   1.3
   TropT
   0.28
   TCO2
   26
   Glucose
   135
   196
   178
   113
   113
   135
   150
   167
   145
   Other labs: PT / PTT / INR:20.3/95.2/1.9, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:41/85, Alk Phos / T Bili:124/1.7,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:6.5 %, Mono:2.2 %, Eos:0.6
   %, Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L, Ca++:9.6
   mg/dL, Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   - Continuing to pull off fluid with levophed support
   - Consider dobutamine as long as no ischemia is suspected, will keep on
   digoxin.
 LEUKOCYTOSIS
   - Stable WBC count with resp distress concerning for new pneumonia.
   - Covering for HAP with vanc/[**Last Name (un) 430**]/cipro
   - Still trying to culture from resp tract, not producing significant
   sputum
   - Blood cultures pending
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   on heparin, need to adjust scale
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Continue CVVH
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - CP without e/o ischemia on ECG (though multiple blocks seen, old)
   - biomarkers not suggestive of new event
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   LENIs negative to suggest DVT
   Has risk factors for PE, but also this is only documented on echo so
   could be CHF
   Repeat echo after diuresis
 URINARY TRACT INFECTION (UTI)
   on [**Last Name (un) 430**] for the ESBL
 ATRIAL FIBRILLATION (AFIB)
   Digoxin, amio. Will halve dig dose given bradycardia yesterday and
   level of 1.5.
 THROMBOCYTOPENIA, CHRONIC
   Following plts; HIT neg x2 with neg serotonin release assay.
   Platelets increasing daily
 HYPOTENSION WITHOUT ORGAN DYSFUNCTION
   levophed support, probably  cardiogenic and intravascular volume as
   sources
 WHEEZING
   nebs prn, fluid removal
   #) Dislocated Shoulder:
   -                Ortho called; splint and OT/PT for arm/elbow
   #) H/o GI bleeding
   - continue to guaiac stools
   ICU Care
   Nutrition: Diabetic/Renal Diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   PICC Line - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2167-11-04 08:10:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2167-11-3**] 10:00 AM
   Ciprofloxacin - [**2167-11-4**] 02:09 AM
   Meropenem - [**2167-11-4**] 08:00 AM
   Infusions:
   Heparin Sodium - 700 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-4**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 71 (68 - 89) bpm
   BP: 87/57(61) {56/25(41) - 191/128(144)} mmHg
   RR: 17 (12 - 23) insp/min
   SpO2: 84%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 103.4 kg (admission): 98.9 kg
   CVP: 19 (6 - 24)mmHg
   Total In:
                                                                  8,778 mL
                                                                  2,756 mL
   PO:
                                                                  1,080 mL
   TF:
   IVF:
                                                                  7,698 mL
                                                                  2,756 mL
   Blood products:
   Total out:
                                                                 11,241 mL
                                                                  3,238 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,463 mL
                                                                   -482 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 84%
   ABG: 7.37/44/32/22/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   140 K/uL
   145 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.4 mEq/L
   7 mg/dL
   99 mEq/L
   133 mEq/L
   27.6 %
   11.9 K/uL
        [image002.jpg]
                            [**2167-11-2**]  03:35 PM
                            [**2167-11-2**]  11:02 PM
                            [**2167-11-2**]  11:17 PM
                            [**2167-11-3**]  04:28 AM
                            [**2167-11-3**]  04:48 AM
                            [**2167-11-3**]  11:07 AM
                            [**2167-11-3**]  04:32 PM
                            [**2167-11-3**]  10:00 PM
                            [**2167-11-3**]  10:05 PM
                            [**2167-11-4**]  03:44 AM
   WBC
   12.3
   11.4
   11.9
   Hct
   28.7
   30.5
   27.6
   Plt
   122
   129
   140
   Cr
   1.8
   1.7
   1.6
   1.4
   1.4
   1.3
   TropT
   0.28
   TCO2
   26
   Glucose
   135
   196
   178
   113
   113
   135
   150
   167
   145
   Other labs: PT / PTT / INR:20.3/95.2/1.9, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:41/85, Alk Phos / T Bili:124/1.7,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:6.5 %, Mono:2.2 %, Eos:0.6
   %, Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L, Ca++:9.6
   mg/dL, Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   1) Respiratory insufficiency:
   CHF is major cause with possible pneumonia as well.
   Tolerated volume removal with CVVH with low-dose levophed.
   Continue empiric treatment of PNA pending cultures.  If no culture
   data, peel back.
   2) Renal Failure:
   CVVH
   3) UE DVT:
   Continue heparin gtt.  Monitor platelets given h/o thrombocytopenia.
   4) Rhythm:
   Decrease digoxin dose given higher level and bradycardia.
   5) UTI:
   Meropenem for ESBL E.coli.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   PICC Line - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2167-11-05 07:22:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I have seen and examined the patient with ICU resident. Mr [**Known lastname **]
   is admitted with renal failure, anasarca and sepsis ( UTI vs PNA)
   24 Hour Events:
   - CVVH net out 4.5 Liters
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2167-11-3**] 10:00 AM
   Ciprofloxacin - [**2167-11-4**] 02:09 AM
   Meropenem - [**2167-11-4**] 08:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-5**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 81 (71 - 84) bpm
   BP: 89/58(65) {85/36(55) - 117/80(84)} mmHg
   RR: 13 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 103.4 kg (admission): 98.9 kg
   CVP: 15 (4 - 21)mmHg
   Total In:
                                                                  7,041 mL
                                                                  2,146 mL
   PO:
                                                                    200 mL
   TF:
   IVF:
                                                                  7,041 mL
                                                                  1,946 mL
   Blood products:
   Total out:
                                                                 11,590 mL
                                                                  2,281 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,549 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Lungs with crackles at the bases bilateral
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Improving edema in the extremities
   Right shoulder subluxation.
   Respiratory / Chest: (Breath Sounds: Absent : bases bilateral)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   121 K/uL
   133 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   6 mg/dL
   97 mEq/L
   136 mEq/L
   26.9 %
   7.7 K/uL
        [image002.jpg]
                            [**2167-11-3**]  11:07 AM
                            [**2167-11-3**]  04:32 PM
                            [**2167-11-3**]  10:00 PM
                            [**2167-11-3**]  10:05 PM
                            [**2167-11-4**]  03:44 AM
                            [**2167-11-4**]  10:03 AM
                            [**2167-11-4**]  03:36 PM
                            [**2167-11-4**]  04:37 PM
                            [**2167-11-4**]  09:44 PM
                            [**2167-11-5**]  03:47 AM
   WBC
   11.4
   11.9
   7.7
   Hct
   30.5
   27.6
   26.9
   Plt
   129
   140
   121
   Cr
   1.4
   1.4
   1.3
   1.3
   1.3
   TCO2
   26
   Glucose
   135
   150
   167
   145
   175
   243
   234
   84
   133
   Other labs: PT / PTT / INR:18.4/107.8/1.7, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:41/85, Alk Phos / T Bili:124/1.7,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:6.5 %, Mono:2.2 %, Eos:0.6
   %, Lactic Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L, Ca++:9.6
   mg/dL, Mg++:1.6 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   80 y/o m with ESRD, CHF EF 35%, not tolerating HD on floor [**2-7**]
   hypotension, which has been an ongoing problem. [**Name (NI) 59**] clear etiology other
   than just poor cardiac function. Now on CVVH.  Receiving low-dose
   levophed to allow volume removal with plan for trial of HD soon.
   1. Respiratory insufficiency:
   CHF is major cause with possible pneumonia as well much improved over
   the last few days (on nasal cannula)
   Tolerated volume removal with CVVH with low-dose levophed, plan for
   trial of HD tomorrow
   D/c
d abx [**11-4**]. s/p 7 day course of treatment for ESBL E. coli.
   2) Renal Failure:
   CVVH, will hold today, try to wean NE and start oral midodrine in
   preparation for HD run likely tomorrow. Tolerate MAP of 60 mmHg.
   3) UE DVT: Right IJ and left  axillary DVT
   Continue heparin gtt.  Monitor platelets given h/o thrombocytopenia.
   Monitoring Hct in setting of hx of GIB, stable for now.
   4) Rhythm:
   Digoxin for rthym stopped amiodarone. Will need to follow dig levels if
   he tolerates intermittent HD
   5) Family: wil meet with family post HD trial (if does not work then he
   is no longer a candidate for HD and will need to discuss CMO status)
   6) shoulder subluxation: supportive care and pain control
   Additional issues per resident progress note.
   ICU Care
   Nutrition: renal diet
   Glycemic Control:  lantus (cont to follow, one high value [**11-4**])
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   PICC Line - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments:  extensive discussion with his children ( son
   and 2 daughters) to update regarding his condition. Plans for care
   outlined for next 24 hours. If he does not tolerate HD with the aid of
   midodrine, we will discuss with renal staff regarding discontinuation
   of HD given severe ongoing co-morbidity and make him CMO/ Hospice care.
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent:  45 minutes

2167-11-05 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1. remained on levophed 0.05
   2. continued on CVVH, took off 4.5L
   3. Family meeting today planned for 1 or 2pm
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2167-11-3**] 10:00 AM
   Ciprofloxacin - [**2167-11-4**] 02:09 AM
   Meropenem - [**2167-11-4**] 08:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-5**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 81 (71 - 84) bpm
   BP: 89/58(65) {85/36(55) - 117/80(84)} mmHg
   RR: 13 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 103.4 kg (admission): 98.9 kg
    CVP: 15 (4 - 21)mmHg
   Total In:
                                                                  7,041 mL
                                                                  2,166 mL
   PO:
                                                                    200 mL
   TF:
   IVF:
                                                                  7,041 mL
                                                                  1,966 mL
   Blood products:
   Total out:
                                                                 11,590 mL
                                                                  2,281 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,549 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   121 K/uL
   8.4 g/dL
   133 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   6 mg/dL
   97 mEq/L
   136 mEq/L
   26.9 %
   7.7 K/uL
        [image002.jpg]
                            [**2167-11-3**]  11:07 AM
                            [**2167-11-3**]  04:32 PM
                            [**2167-11-3**]  10:00 PM
                            [**2167-11-3**]  10:05 PM
                            [**2167-11-4**]  03:44 AM
                            [**2167-11-4**]  10:03 AM
                            [**2167-11-4**]  03:36 PM
                            [**2167-11-4**]  04:37 PM
                            [**2167-11-4**]  09:44 PM
                            [**2167-11-5**]  03:47 AM
   WBC
   11.4
   11.9
   7.7
   Hct
   30.5
   27.6
   26.9
   Plt
   129
   140
   121
   Cr
   1.4
   1.4
   1.3
   1.3
   1.3
   TCO2
   26
   Glucose
   135
   150
   167
   145
   175
   243
   234
   84
   133
   Other labs: PT / PTT / INR:18.4/107.8/1.7, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:41/85, Alk Phos / T Bili:124/1.7,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:6.5 %, Mono:2.2 %, Eos:0.6
   %, Lactic Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L, Ca++:9.6
   mg/dL, Mg++:1.6 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   - Continuing to pull off fluid with levophed support
   - goal is negative 1L today with CVVH.
   - Patient improving daily
 LEUKOCYTOSIS
   - Improved white count in the absence of antibiotics.
   - Culture if spikes
   - Follow cultures
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   Continue heparin gtt
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Continue CVVH until this afternoon
   - Patinet to have HD in [**1-7**] days
   Hypotension
   - Patient requiring levophed during CVVH in order to increase renal
   perfusion.
   - Will add Midodrine and wean levophed if tolerated
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - CP without e/o ischemia on ECG (though multiple blocks seen, old)
   - biomarkers not suggestive of new event
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   LENIs negative to suggest DVT
   Has risk factors for PE, but also this is only documented on echo so
   could be CHF
   Repeat echo after diuresis
 URINARY TRACT INFECTION (UTI)
   Off [**Last Name (un) 430**]
 ATRIAL FIBRILLATION (AFIB)
   On Digoxin,. Will halve dig dose given bradycardia yesterday and level
   of 1.5.
   Will hold Amio at this time given hypotension
 THROMBOCYTOPENIA, CHRONIC
   Following plts; HIT neg x2 with neg serotonin release assay.
   Platelets increasing daily
 HYPOTENSION WITHOUT ORGAN DYSFUNCTION
   levophed support, probably  cardiogenic and intravascular volume as
   sources
 WHEEZING
   nebs prn, fluid removal
   #) Dislocated Shoulder:
   -                Ortho called; splint and OT/PT for arm/elbow
   #) H/o GI bleeding
   - guaiac stools if Hct drops
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   PICC Line - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2167-11-06 07:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: renal failure, sepsis
   24 Hour Events:
   Remains pressor dependent
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2167-11-3**] 10:00 AM
   Ciprofloxacin - [**2167-11-4**] 02:09 AM
   Meropenem - [**2167-11-4**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2167-11-6**] 05:07 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-6**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.2
C (97.2
   HR: 85 (61 - 93) bpm
   BP: 93/38(50) {79/37(47) - 123/4,846(87)} mmHg
   RR: 17 (12 - 19) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 90.5 kg (admission): 98.9 kg
   CVP: 10 (6 - 19)mmHg
   Total In:
                                                                  5,810 mL
                                                                    254 mL
   PO:
                                                                  1,080 mL
   TF:
   IVF:
                                                                  4,730 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  7,122 mL
                                                                     50 mL
   Urine:
                                                                    100 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,312 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Clubbing, upper ext edema
   slowly improving
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.8 g/dL
   139 K/uL
   95 mg/dL
   1.8 mg/dL
   31 mEq/L
   4.4 mEq/L
   11 mg/dL
   95 mEq/L
   135 mEq/L
   28.1 %
   7.3 K/uL
        [image002.jpg]
                            [**2167-11-3**]  10:05 PM
                            [**2167-11-4**]  03:44 AM
                            [**2167-11-4**]  10:03 AM
                            [**2167-11-4**]  03:36 PM
                            [**2167-11-4**]  04:37 PM
                            [**2167-11-4**]  09:44 PM
                            [**2167-11-5**]  03:47 AM
                            [**2167-11-5**]  09:50 AM
                            [**2167-11-5**]  03:35 PM
                            [**2167-11-6**]  03:23 AM
   WBC
   11.9
   7.7
   7.3
   Hct
   27.6
   26.9
   28.1
   Plt
   140
   121
   139
   Cr
   1.3
   1.3
   1.3
   1.3
   1.4
   1.8
   Glucose
   167
   145
   175
   243
   [**Telephone/Fax (2) 6266**]4
   189
   95
   Other labs: PT / PTT / INR:17.1/76.7/1.5, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:41/85, Alk Phos / T Bili:124/1.7,
   Differential-Neuts:83.4 %, Band:0.0 %, Lymph:11.6 %, Mono:4.1 %,
   Eos:0.7 %, Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   80 y/o m with ESRD, CHF EF 35%, not tolerating HD on floor [**2-7**]
   hypotension, which has been an ongoing problem. [**Name (NI) 59**] clear etiology other
   than just poor cardiac function. Now on CVVH.  Receiving low-dose
   levophed to allow volume removal with plan for trial of HD soon.
   > Fevers: low grade fever overnight. ? urine as source. Clx pending.
   Recently s/p Abx(d/c'd on [**11-4**]) and s/p 7 day tx course for ESBL E.
   coli.
   >Respiratory insufficiency:
   CHF is major cause with possible pneumonia as well much improved over
   the last few days (on nasal cannula)
   RLL atelectasis or PNA remains a concern given sizable effusion on CXR
   Plan for HD as below
   > Renal Failure:
   oral midodrine (increase to max dose), wean from NE and trial HD run
   when hemo stable.
   >UE DVT: Right IJ and left  axillary DVT
   Continue heparin gtt.  Monitor platelets given h/o thrombocytopenia.
   Monitoring Hct in setting of hx of GIB, stable for now.
   >Rhythm: Digoxin for rthym stopped amiodarone. Will need to follow dig
   levels if he tolerates intermittent HD
   >Family: will meet with family post HD trial (if does not work then he
   is no longer a candidate for HD and will need to discuss [**Month/Year (2) 617**] status)
   >shoulder subluxation: supportive care and pain control
   Additional issues per resident progress note.
   ICU Care
   Nutrition:
   Comments: PO intake
   Glycemic Control:  Comments: lantus
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held on [**11-5**] and updated regarding his
   condition. They are aware that if HD cannot be perfomed without pressor
   support it is no longer safe to institute. We will assess his
   hemodynamic response to the next trial and if there is any further
   hemodynamic decline, will speak with son and daughters regarding [**Name (NI) 617**].
   They are more agreeable to this given what they have seen over the past
   few weeks.  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2167-11-06 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.       Increased Midodrine to 7.5 mg tid
   2.       Attempted to wean levophed
   3.       Increase CVVH to ~350cc/hr, stopped at 3pm.  Total removed was
   2.2L
   4.       3PM lytes WNL
   5.       Pancultured for change in mental status and urinary
   incontinence
   6.       Required increases in Levophed for MAP > 60
   7.       Dirty UA, low grade fever
 started Zosyn empirically
   8.       Renal planning on HD on [**2167-11-6**]
   S: No current complaints. Eating well, hungry.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2167-11-3**] 10:00 AM
   Ciprofloxacin - [**2167-11-4**] 02:09 AM
   Meropenem - [**2167-11-4**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2167-11-6**] 05:07 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Midodrine
   Flowsheet Data as of  [**2167-11-6**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.2
C (97.2
   HR: 71 (61 - 93) bpm
   BP: 86/40(52) {79/37(47) - 123/4,846(87)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.5 kg (admission): 98.9 kg
    CVP: 14 (6 - 19)mmHg
   Total In:
                                                                  5,810 mL
                                                                    258 mL
   PO:
                                                                  1,080 mL
   TF:
   IVF:
                                                                  4,730 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  7,122 mL
                                                                     50 mL
   Urine:
                                                                    100 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,312 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: surgically absent, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Oriented to person
   only, not year or location
   Labs / Radiology
   139 K/uL
   8.8 g/dL
   95 mg/dL
   1.8 mg/dL
   31 mEq/L
   4.4 mEq/L
   11 mg/dL
   95 mEq/L
   135 mEq/L
   28.1 %
   7.3 K/uL
        [image002.jpg]
                            [**2167-11-3**]  10:05 PM
                            [**2167-11-4**]  03:44 AM
                            [**2167-11-4**]  10:03 AM
                            [**2167-11-4**]  03:36 PM
                            [**2167-11-4**]  04:37 PM
                            [**2167-11-4**]  09:44 PM
                            [**2167-11-5**]  03:47 AM
                            [**2167-11-5**]  09:50 AM
                            [**2167-11-5**]  03:35 PM
                            [**2167-11-6**]  03:23 AM
   WBC
   11.9
   7.7
   7.3
   Hct
   27.6
   26.9
   28.1
   Plt
   140
   121
   139
   Cr
   1.3
   1.3
   1.3
   1.3
   1.4
   1.8
   Glucose
   167
   145
   175
   243
   [**Telephone/Fax (2) 6266**]4
   189
   95
   Other labs: PT / PTT / INR:17.1/76.7/1.5, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:41/85, Alk Phos / T Bili:124/1.7,
   Differential-Neuts:83.4 %, Band:0.0 %, Lymph:11.6 %, Mono:4.1 %,
   Eos:0.7 %, Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [1][**2167-11-5**] 04:10PM
                                    [**3-11**]*
                                   21-50*
                                     OCC
                                     MOD
                                      0
   Imaging: CXR
   Microbiology: Blood/Urine from [**11-5**] PENDING
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   - Continue on digoxin.
   - Hold CVVH  now
   - Added midodrine for BP support, increase midodrine today; plan to
   wean levophed
   - Will attempt to remove further fluid during hemodialysis runs if
   pressures supports
 URINARY TRACT INFECTION (UTI)
   New u/a from last night with many polys concerning for new UTI or
   uncle[**Name (NI) **] prior UTI with ecoli
   - restarted zosyn; changing back to [**Last Name (un) 430**] pending culture and
   sensitivities given prior ESBL
   - This could be reversible compontent to mental status and hypotension;
   continue to treat for now
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   Continue heparin gtt
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   - CVVH off;
   - HD tomorrow, hopefully off of pressors (except midodrine)
   - If he is unable to tolerate an HD run without requiring pressors to
   support his blood pressure during this, and no other reversible cause
   is seen, this could indicate that he, for reasons of cardiac output or
   otherwise, is not able ot support HD in a setting outside of an
   intensive care unit. Given this, we will do this experiment and then
   discuss with family his goals of care
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - continue aspirin
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   Consider repeat echo after diuresis
 ATRIAL FIBRILLATION (AFIB)
   On Digoxin, holding amio
 THROMBOCYTOPENIA, CHRONIC
   Following plts; HIT neg x2 with neg serotonin release assay.
   #) Dislocated Shoulder:
   Split and exercises
   #) H/o GI bleeding
   - guaiac stools if Hct drops
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU pending trial of HD
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);

2167-11-07 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-11-6**] 10:30 AM
 BLOOD CULTURED - At [**2167-11-6**] 10:45 AM
   1.levophed weaned to .03
   2.midodrine increased to 15mg PO TID
   3.HD deferred due to hypotension
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-11-6**] 05:07 AM
   Meropenem - [**2167-11-6**] 12:00 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-7**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 67 (63 - 81) bpm
   BP: 102/61(68) {77/35(45) - 101,110/5,162(93)} mmHg
   RR: 11 (11 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.5 kg (admission): 98.9 kg
   Height: 70 Inch
    CVP: 8 (-1 - 15)mmHg
   Total In:
                                                                  1,292 mL
                                                                     75 mL
   PO:
                                                                    750 mL
   TF:
   IVF:
                                                                    542 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                      0 mL
   Urine:
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,167 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   145 K/uL
   8.2 g/dL
   121 mg/dL
   2.3 mg/dL
   30 mEq/L
   4.6 mEq/L
   19 mg/dL
   94 mEq/L
   132 mEq/L
   26.5 %
   7.5 K/uL
        [image002.jpg]
                            [**2167-11-4**]  03:44 AM
                            [**2167-11-4**]  10:03 AM
                            [**2167-11-4**]  03:36 PM
                            [**2167-11-4**]  04:37 PM
                            [**2167-11-4**]  09:44 PM
                            [**2167-11-5**]  03:47 AM
                            [**2167-11-5**]  09:50 AM
                            [**2167-11-5**]  03:35 PM
                            [**2167-11-6**]  03:23 AM
                             [**2167-11-7**]  03:52 AM
   WBC
   11.9
   7.7
   7.3
   7.5
   Hct
   27.6
   26.9
   28.1
   26.5
   Plt
   140
   121
   139
   145
   Cr
   1.3
   1.3
   1.3
   1.3
   1.4
   1.8
   2.3
   Glucose
   145
   175
   243
   234
   84
   133
   154
   189
   95
   121
   Other labs: PT / PTT / INR:16.3/69.7/1.5, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:41/85, Alk Phos / T Bili:124/1.7,
   Differential-Neuts:83.4 %, Band:0.0 %, Lymph:11.6 %, Mono:4.1 %,
   Eos:0.7 %, Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   - Continue on digoxin.
   - Hold CVVH  now
   - Added midodrine for BP support, increase midodrine today; plan to
   wean levophed
   - Will attempt to remove further fluid during hemodialysis runs if
   pressures supports
 URINARY TRACT INFECTION (UTI)
   New u/a from last night with many polys concerning for new UTI or
   uncle[**Name (NI) **] prior UTI with ecoli
   - restarted zosyn; changing back to [**Last Name (un) 430**] pending culture and
   sensitivities given prior ESBL
   - This could be reversible compontent to mental status and hypotension;
   continue to treat for now
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   Continue heparin gtt
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   - CVVH off;
   - HD tomorrow, hopefully off of pressors (except midodrine)
   - If he is unable to tolerate an HD run without requiring pressors to
   support his blood pressure during this, and no other reversible cause
   is seen, this could indicate that he, for reasons of cardiac output or
   otherwise, is not able ot support HD in a setting outside of an
   intensive care unit. Given this, we will do this experiment and then
   discuss with family his goals of care
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - continue aspirin
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   Consider repeat echo after diuresis
 ATRIAL FIBRILLATION (AFIB)
   On Digoxin, holding amio
 THROMBOCYTOPENIA, CHRONIC
   Following plts; HIT neg x2 with neg serotonin release assay.
   #) Dislocated Shoulder:
   Split and exercises
   #) H/o GI bleeding
   - guaiac stools if Hct drops
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU pending trial of HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2167-11-07 08:44:00 Physician Attending Progress Note
TITLE: ICU PROGRESS NOTE
   Chief Complaint: HOTN
   HPI:
   80 y.o. M w/ ESRD, CHF admitted with HOTN and pulmonary edema,
   intolerant of HD due to HOTN.  Transferred to MICU for HOTN and for
   CVVH
   24 Hour Events:
   Febrile yesterday to 100.1:
 BLOOD CULTURED - At [**2167-11-6**] 10:30 AM
 BLOOD CULTURED - At [**2167-11-6**] 10:45 AM
   - levophed weaned but remains on board, midodrine increased
   - HD deferred yesterday
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-11-6**] 05:07 AM
   Meropenem - [**2167-11-6**] 12:00 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-7**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 69 (63 - 81) bpm
   BP: 117/58(70) {77/35(45) - 101,110/5,162(93)} mmHg
   RR: 13 (11 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.5 kg (admission): 98.9 kg
   Height: 70 Inch
   CVP: 11 (-1 - 15)mmHg
   Total In:
                                                                  1,292 mL
                                                                     89 mL
   PO:
                                                                    750 mL
   TF:
   IVF:
                                                                    542 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                      0 mL
   Urine:
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,167 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Trace, R BKA
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   145 K/uL
   121 mg/dL
   2.3 mg/dL
   30 mEq/L
   4.6 mEq/L
   19 mg/dL
   94 mEq/L
   132 mEq/L
   26.5 %
   7.5 K/uL
        [image002.jpg]
                            [**2167-11-4**]  03:44 AM
                            [**2167-11-4**]  10:03 AM
                            [**2167-11-4**]  03:36 PM
                            [**2167-11-4**]  04:37 PM
                            [**2167-11-4**]  09:44 PM
                            [**2167-11-5**]  03:47 AM
                            [**2167-11-5**]  09:50 AM
                            [**2167-11-5**]  03:35 PM
                            [**2167-11-6**]  03:23 AM
                             [**2167-11-7**]  03:52 AM
   WBC
   11.9
   7.7
   7.3
   7.5
   Hct
   27.6
   26.9
   28.1
   26.5
   Plt
   140
   121
   139
   145
   Cr
   1.3
   1.3
   1.3
   1.3
   1.4
   1.8
   2.3
   Glucose
   145
   175
   243
   234
   84
   133
   154
   189
   95
   121
   Other labs: PT / PTT / INR:16.3/69.7/1.5, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:41/85, Alk Phos / T Bili:124/1.7,
   Differential-Neuts:83.4 %, Band:0.0 %, Lymph:11.6 %, Mono:4.1 %,
   Eos:0.7 %, Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR - worsening R pleural effusion
   Micro: BCx pending
 [**11-5**] & [**11-6**], UC [**11-5**] -yeast
   Assessment and Plan
   80 y/o m with ESRD, CHF EF 35%, not tolerating HD on floor [**2-7**]
   hypotension, which has been an ongoing problem. [**Name (NI) 59**] clear etiology other
   than just poor cardiac function. Now on CVVH.  Receiving low-dose
   levophed to allow volume removal with plan for trial of HD today.
 SHOCK - remains pressor dependent, sepsis versus cardiogenic vs. ?
   - cont midodrine, wean levophed as tolerated, MAP>55-60
   - check adrenal axis with random cortisol +/- [**Last Name (un) 45**] stim
   - low grade febrile yesterday (see below), but sepsis seems unlikely
   - holding all anti-HTN medications
 FEVER
 low grade yesterday, source unclear
   - f/u blood cultures, consider culture from HD line to assess for
   colonization
   - continue meropenem today (started [**11-6**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - continue ASA
 ATRIAL FIBRILLATION (AFIB)
   - on digoxin and heparin gtts
 THROMBOCYTOPENIA, CHRONIC - stable
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   - heparin drip as noted above
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   - trial of HD today per renal, follow BP closely
   - electrolytes reasonable
   # ANEMIA
   -          transfuse 1 unit blood today
   # GOALS OF CARE
 persistent shock of unclear etiology, no reversible
   causes identified, unable to tolerate dialysis
    - trial of HD again today
   - will need family meeting later this weekend to decide on goals of
   care
   I was present for the key portions of the examination with the ICU
   fellow and agree with the findings and plan outlined above.
   ICU Care
   Nutrition:
   Comments: tolerates PO diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, UE DVT)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: plan for family meeting this weekend
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2167-11-08 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tolerated HD on Levophed
   - Unable to wean levophed after HD
   - 1 unit PRBC's transfused with HD
   - Random cortisol checked 16.3
   - Started Florinef 0.1 mg daily
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-11-6**] 05:07 AM
   Meropenem - [**2167-11-7**] 12:49 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-8**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.3
C (97.3
   HR: 68 (67 - 96) bpm
   BP: 106/47(60) {55/37(45) - 125/86(91)} mmHg
   RR: 14 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.5 kg (admission): 98.9 kg
   Height: 70 Inch
    CVP: 6 (5 - 17)mmHg
   Total In:
                                                                  1,615 mL
                                                                    180 mL
   PO:
                                                                    750 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    180 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -385 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Chest: diminished at right base, no crackles auscultated
   Cardiovascular: (S1: Normal), (S2: Normal), [**1-11**] syst mumur
   Extremities: Right: [**Doctor First Name 458**] abs, Left: 2+
   Skin:  Not assessed
   Neurologic: Oriented to name, not to location (stated: home) or date
   Labs / Radiology
   102 K/uL
   9.1 g/dL
   108 mg/dL
   1.9 mg/dL
   31 mEq/L
   3.6 mEq/L
   14 mg/dL
   100 mEq/L
   138 mEq/L
   27.9 %
   8.4 K/uL
        [image002.jpg]
                            [**2167-11-4**]  10:03 AM
                            [**2167-11-4**]  03:36 PM
                            [**2167-11-4**]  04:37 PM
                            [**2167-11-4**]  09:44 PM
                            [**2167-11-5**]  03:47 AM
                            [**2167-11-5**]  09:50 AM
                            [**2167-11-5**]  03:35 PM
                            [**2167-11-6**]  03:23 AM
                             [**2167-11-7**]  03:52 AM
                             [**2167-11-8**]  03:32 AM
   WBC
   7.7
   7.3
   7.5
   8.4
   Hct
   26.9
   28.1
   26.5
   27.9
   Plt
   121
   139
   145
   102
   Cr
   1.3
   1.3
   1.3
   1.4
   1.8
   2.3
   1.9
   Glucose
   175
   243
   234
   84
   133
   154
   189
   95
   121
   108
   Other labs: PT / PTT / INR:16.3/82.0/1.5, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:41/85, Alk Phos / T Bili:124/1.7,
   Differential-Neuts:83.4 %, Band:0.0 %, Lymph:11.6 %, Mono:4.1 %,
   Eos:0.7 %, Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: Cortsol: 16.3
   Microbiology: [**2167-11-7**]  BLOOD CULTURE  Pending
   [**2167-11-7**]  BLOOD CULTURE  Pending
   [**2167-11-7**]  BLOOD CULTURE  Pending
   [**2167-11-6**]  BLOOD CULTURE  Pending
   [**2167-11-6**]  BLOOD CULTURE  Pending
   [**2167-11-5**]  BLOOD CULTURE  Pending
   [**Numeric Identifier 6298**]/08 URINE - >100K yeast
   Assessment and Plan
   80M with ESRD on HD, hypotension
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   - Continue to wean down levophed as tolerated, attempt off today.
   - continue midodrine, change florinef to hydrocort 60mg IV q6h for
   possible contribution of adrenal insuf
   - attempt to run on HD tomorrow
   - Family meeting tomorrow
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   - Diuresis from HD tomorrow
   - continue digoxin
 URINARY TRACT INFECTION (UTI)
   - Yeast only cultured; continue meropenem empirically for now given
   remaining hypotensive
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   -Continue heparin gtt
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - continue aspirin

 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   -Consider repeat echo after diuresis
 ATRIAL FIBRILLATION (AFIB)
   On Digoxin, holding amio
 THROMBOCYTOPENIA, CHRONIC
   Following plts; HIT neg x2 with neg serotonin release assay.
   #) Dislocated Shoulder:
   Splint and exercises
   #) H/o GI bleeding
   -guaiac stools if Hct drops
   -1 unit prbc
s [**11-7**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT:  Systemic Anticoagulation
   Stress ulcer:  Eating
   VAP:  Not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2167-11-09 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2167-11-8**] 11:30 AM
   abd
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2167-11-8**] 12:00 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-9**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 74 (58 - 85) bpm
   BP: 107/45(57) {77/35(45) - 116/66(71)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.5 kg (admission): 98.9 kg
   Height: 70 Inch
    CVP: 10 (7 - 19)mmHg
   Total In:
                                                                  1,186 mL
                                                                     42 mL
   PO:
                                                                    750 mL
   TF:
   IVF:
                                                                    436 mL
                                                                     42 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,186 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   8.7 g/dL
   155 mg/dL
   2.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   21 mg/dL
   100 mEq/L
   135 mEq/L
   27.2 %
   6.1 K/uL
        [image002.jpg]
                            [**2167-11-4**]  03:36 PM
                            [**2167-11-4**]  04:37 PM
                            [**2167-11-4**]  09:44 PM
                            [**2167-11-5**]  03:47 AM
                            [**2167-11-5**]  09:50 AM
                            [**2167-11-5**]  03:35 PM
                            [**2167-11-6**]  03:23 AM
                             [**2167-11-7**]  03:52 AM
                             [**2167-11-8**]  03:32 AM
                             [**2167-11-9**]  03:09 AM
   WBC
   7.7
   7.3
   7.5
   8.4
   6.1
   Hct
   26.9
   28.1
   26.5
   27.9
   27.2
   Plt
   121
   139
   145
   102
   105
   Cr
   1.3
   1.3
   1.3
   1.4
   1.8
   2.3
   1.9
   2.6
   Glucose
   243
   234
   84
   133
   154
   189
   95
   121
   108
   155
   Other labs: PT / PTT / INR:16.3/59.3/1.5, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:30/27, Alk Phos / T Bili:114/1.4,
   Differential-Neuts:83.4 %, Band:0.0 %, Lymph:11.6 %, Mono:4.1 %,
   Eos:0.7 %, Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 ATRIAL FIBRILLATION (AFIB)
 THROMBOCYTOPENIA, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 SHOCK, OTHER
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2167-11-09 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2167-11-8**] 11:30 AM
   abd
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2167-11-8**] 12:00 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-9**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 74 (58 - 85) bpm
   BP: 107/45(57) {77/35(45) - 116/66(71)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.5 kg (admission): 98.9 kg
   Height: 70 Inch
    CVP: 10 (7 - 19)mmHg
   Total In:
                                                                  1,186 mL
                                                                     44 mL
   PO:
                                                                    750 mL
   TF:
   IVF:
                                                                    436 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,186 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   8.7 g/dL
   155 mg/dL
   2.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   21 mg/dL
   100 mEq/L
   135 mEq/L
   27.2 %
   6.1 K/uL
        [image002.jpg]
                            [**2167-11-4**]  03:36 PM
                            [**2167-11-4**]  04:37 PM
                            [**2167-11-4**]  09:44 PM
                            [**2167-11-5**]  03:47 AM
                            [**2167-11-5**]  09:50 AM
                            [**2167-11-5**]  03:35 PM
                            [**2167-11-6**]  03:23 AM
                             [**2167-11-7**]  03:52 AM
                             [**2167-11-8**]  03:32 AM
                             [**2167-11-9**]  03:09 AM
   WBC
   7.7
   7.3
   7.5
   8.4
   6.1
   Hct
   26.9
   28.1
   26.5
   27.9
   27.2
   Plt
   121
   139
   145
   102
   105
   Cr
   1.3
   1.3
   1.3
   1.4
   1.8
   2.3
   1.9
   2.6
   Glucose
   243
   234
   84
   133
   154
   189
   95
   121
   108
   155
   Other labs: PT / PTT / INR:16.3/59.3/1.5, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:30/27, Alk Phos / T Bili:114/1.4,
   Differential-Neuts:83.4 %, Band:0.0 %, Lymph:11.6 %, Mono:4.1 %,
   Eos:0.7 %, Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2167-11-09 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Got off of levophed, maintaining adequate BPs
   - Potential HD run today
   - RUQ U/S for low grade temps, cause of hypotension. no cholecystitis,
   pleural effusion
   - Continued on meropenem emprically overnight
   - Cultures remained negative
   - Given hydrocort 50 q6h empirically in lieu of florinef
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2167-11-8**] 12:00 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-9**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 74 (58 - 85) bpm
   BP: 107/45(57) {77/35(45) - 116/66(71)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.5 kg (admission): 98.9 kg
   Height: 70 Inch
    CVP: 10 (7 - 19)mmHg
   Total In:
                                                                  1,186 mL
                                                                     44 mL
   PO:
                                                                    750 mL
   TF:
   IVF:
                                                                    436 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,186 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   NAD, A/Ox2, hard of hearing, moving all extremities, cn 2-12 grossly
   intact, mildly icteric sclera, no murmurs, no friction rub, no breath
   sounds at R-base [**2-8**] of lower lung field.  +LE edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   8.7 g/dL
   155 mg/dL
   2.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   21 mg/dL
   100 mEq/L
   135 mEq/L
   27.2 %
   6.1 K/uL
        [image002.jpg]
                            [**2167-11-4**]  03:36 PM
                            [**2167-11-4**]  04:37 PM
                            [**2167-11-4**]  09:44 PM
                            [**2167-11-5**]  03:47 AM
                            [**2167-11-5**]  09:50 AM
                            [**2167-11-5**]  03:35 PM
                            [**2167-11-6**]  03:23 AM
                             [**2167-11-7**]  03:52 AM
                             [**2167-11-8**]  03:32 AM
                             [**2167-11-9**]  03:09 AM
   WBC
   7.7
   7.3
   7.5
   8.4
   6.1
   Hct
   26.9
   28.1
   26.5
   27.9
   27.2
   Plt
   121
   139
   145
   102
   105
   Cr
   1.3
   1.3
   1.3
   1.4
   1.8
   2.3
   1.9
   2.6
   Glucose
   243
   234
   84
   133
   154
   189
   95
   121
   108
   155
   Other labs: PT / PTT / INR:16.3/59.3/1.5, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:30/27, Alk Phos / T Bili:114/1.4,
   Differential-Neuts:83.4 %, Band:0.0 %, Lymph:11.6 %, Mono:4.1 %,
   Eos:0.7 %, Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL, LDH:391 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   All blood cxs(-) to date
   Assessment and Plan
   80M with ESRD on HD, hypotension, with pressor-dependant HD and heart
   failure.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   - HD [**11-9**], levophed prn
   - lytes stable, anion gap stable
   - cont midodrine
   - DC steroids
 cortisol not suggestive of adrenal insufficiency
   - goals of care today
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC, EF 35%
   - minimal UOP, diuresis as per HD
   - cont digoxin
 URINARY TRACT INFECTION (UTI)/PLEURAL EFFUSION - yeast only cultured,
   continued R pleural effusion, pt refusing thoracentesis.  Has been on
   meropenem empirically for hypotension and concern for parapneumonic
   effusion risk.
   - empiric meropenem to complete 8d course (10/31
 [**11-13**])
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   -cont heparin gtt
   - coumadin restart pending goals of care, likely [**11-10**]

 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - cont aspirin
 ATRIAL FIBRILLATION (AFIB)
   - cont digoxin, hold amio
 THROMBOCYTOPENIA, CHRONIC
   - trend, HIT (-) x2 with neg serotonin release assay.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2167-11-11 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2167-11-10**] 01:00 PM
   1500cc removed, cx and labs sent w/ sample.
   -Got thoracentesis complicated by very small pneumothorax --> Placed on
   100%NRB overnight
   Lights: Pleural protein/ serum protein = 2.3 / 5.9 = 0.39 (negative)
                 Pleural LDH/ Serum LDH = 0.51 (negative)
                 Pleural LDH 0f 109 (negative)
   pH of pleural fluid of 7.5
   Gram stain of pleural fluid - 2+polys, no organisms
   -Heparin drip resumed, coumadin started
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2167-11-10**] 12:00 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-11**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 73 (60 - 82) bpm
   BP: 96/52(62) {87/35(54) - 130/96(104)} mmHg
   RR: 22 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.5 kg (admission): 98.9 kg
   Height: 70 Inch
    CVP: 7 (3 - 18)mmHg
   Total In:
                                                                    573 mL
                                                                     47 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                    173 mL
                                                                     47 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                  1,500 mL
   Balance:
                                                                   -927 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Nad, a/ox2, was unsure of date.  IJ in place without erythema.  Heart
   regular without murmurs or friction rub, lungs with decreased breath
   sounds at base, crackle at R-base.  No LE edema in LLE.  Moving both
   upper exts and LLE.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   9.5 g/dL
   143 mg/dL
   2.8 mg/dL
   30 mEq/L
   3.7 mEq/L
   23 mg/dL
   100 mEq/L
   136 mEq/L
   29.0 %
   9.6 K/uL
        [image002.jpg]
                            [**2167-11-5**]  03:47 AM
                            [**2167-11-5**]  09:50 AM
                            [**2167-11-5**]  03:35 PM
                            [**2167-11-6**]  03:23 AM
                             [**2167-11-7**]  03:52 AM
                             [**2167-11-8**]  03:32 AM
                             [**2167-11-9**]  03:09 AM
                             [**2167-11-10**]  04:06 AM
                             [**2167-11-10**]  10:20 AM
                             [**2167-11-11**]  04:27 AM
   WBC
   7.7
   7.3
   7.5
   8.4
   6.1
   8.5
   9.6
   Hct
   26.9
   28.1
   26.5
   27.9
   27.2
   27.0
   28.4
   29.0
   Plt
   121
   139
   145
   102
   105
   49
   63
   91
   Cr
   1.3
   1.3
   1.4
   1.8
   2.3
   1.9
   2.6
   2.3
   2.8
   Glucose
   133
   154
   189
   95
   121
   108
   155
   122
   143
   Other labs: PT / PTT / INR:15.0/65.4/1.3, CK / CKMB /
   Troponin-T:146/9/0.28, ALT / AST:23/25, Alk Phos / T Bili:107/1.0,
   Differential-Neuts:84.9 %, Band:0.0 %, Lymph:10.2 %, Mono:4.4 %,
   Eos:0.3 %, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:210 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   80M with ESRD on HD, hypotension, with pressor-dependant HD and heart
   failure.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   - HD [**11-9**] with 2L(-), plan for HD today as per renal
 cont MWF routine
   - lytes stable, anion gap stable
   - cont midodrine
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC, EF 35%
   - minimal UOP, diuresis as per HD
   - cont digoxin
 URINARY TRACT INFECTION (UTI)/PLEURAL EFFUSION - yeast only cultured,
   continued R pleural effusion, pt refusing thoracentesis.  Has been on
   meropenem empirically for hypotension and concern for parapneumonic
   effusion risk.
   - thoracentesis results (-)x3 Light
s criteria, pH 7.5, no e/o
   infection.  Given treatment initiated prior to results, will complete
   8d course for presumptive parapneumonic effusion vs other source
   - DC meropenem, initiate levofloxacin x2 days.
   - plan for thoracentesis on floor [**11-12**] or [**11-13**] to tap
   - trend O2 requirements
 likely element from R pleural effusion and
   fluid overload from CHF
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   - plan to start coumadin [**11-11**], once stable post thoracentesis
   - continue heparin

 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - cont aspirin, statin
 ATRIAL FIBRILLATION (AFIB)
   - cont digoxin, DC
ed amio
 THROMBOCYTOPENIA, CHRONIC - fluctuating low platelets, today with >50
   pt drop with no change in clinical status or new medications.  Has had
   low platelet counts previous.
   - repeat platelet count now
   - maintain platelets >50K for thoracentesis
   - cont to trend, HIT (-) x2 with neg serotonin release assay.
   ICU Care
   Nutrition:
   Glycemic Control:  iss
   Lines:
   Dialysis Catheter - [**2167-11-1**] 03:15 PM
   Multi Lumen - [**2167-11-1**] 03:36 PM
   Prophylaxis:
   DVT: hep
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: c/o today, discussed with family